US05300524
2,5-Dimethoxytetrahydrofuran (17.1 ml, 0.13 M) was added dropwise to a stirred solution of benzenesulphinic acid (17.0 g, 0.12 M) in dry DCM (100ml) containing a suspension of powdered CaCl2 (1.0 g) at room temperature under argon. After 4 h, the solution was washed with water (2×50 ml), dried (Na2SO4) and evaporated. The product was crystallised (diethyl ether/hexane) to give 2-benzenesulphonyl-5-methoxytetrahydrofuran (15 9 g, 55%).

reactant | 2,5-Dimethoxytetrahydrofuran | 0.13 M, 17.1 ml | COC1OC(CC1)OC | C6H12O3
reactant | benzenesulphinic acid | 0.12 M, 17.0 g | C1(=CC=CC=C1)S(=O)O | C6H6O2S
reactant | CaCl2 | 1.0 g | [Cl-].[Cl-].[Ca+2]
solvent | DCM | 100ml | C(Cl)Cl | CH2Cl2
product | 2-benzenesulphonyl-5-methoxytetrahydrofuran | 9 g, 55% | C1(=CC=CC=C1)S(=O)(=O)C1OC(CC1)OC | C11H14O4S
